US08252792B2
To a solution of 1-bromo-5-fluoro-2-methyl-3-nitro-benzene (1.78 g) in dimethylfornamide (15 ml) was added dimethylformamide dimethyl acetal (3.0 ml) followed by pyrrolidine (0.63 ml) and heated to 110° C. After 24 hours the cooled reaction mixture was diluted with ethyl acetate, washed with water, brine, dried (MgSO4) and the solvent removed in vacuo to yield crude 1-[2-(2-bromo-4-fluoro-6-nitro-phenyl)-vinyl]-pyrrolidine.

reactant | 1-bromo-5-fluoro-2-methyl-3-nitro-benzene | 1.78 g | BrC1=C(C(=CC(=C1)F)[N+](=O)[O-])C | C7H5BrFNO2
reactant | dimethylformamide dimethyl acetal | 3.0 ml | COC(N(C)C)OC | C5H13NO2
reactant | pyrrolidine | 0.63 ml | N1CCCC1 | C4H9N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[2-(2-bromo-4-fluoro-6-nitro-phenyl)-vinyl]-pyrrolidine | BrC1=C(C(=CC(=C1)F)[N+](=O)[O-])C=CN1CCCC1 | C12H12BrFN2O2
